US05591762
4'-[[2-n-Propyl-4-methyl-6-(4-isopropyl-5-methyl-oxazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic Acid
3.9 g (6.7 mMol) of tert.butyl 4'-[[2-n-propyl-4-methyl-6-[N-(1-acetyl-2-methyl-n-propyl)-aminocarbonyl]-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate are dissolved in 50 ml of phosphorusoxychloride and stirred for 2.5 hours at 105° C. Then the phosphorusoxychloride is removed, the residue is decomposed with water at 80° C. and, after cooling, mixed with conc. ammonia. The pH is adjusted to 5 by the addition of glacial acetic acid, the precipitate thus formed is suction filtered, washed with water, taken up in methylene chloride/methanol (9:1) and dried over magnesium sulphate. The crude product is chromatographed on silica gel (particle size: 0.032-0.063 mm) using as eluant petroleum ether/ethyl acetate/glacial acetic acid (1:1:0.002) and methylene chloride/ethanol/glacial acetic acid (20:1:0.002). The uniform fractions are combined, evaporated down, triturated with ether and suction filtered.

reactant | tert.butyl 4'-[[2-n-propyl-4-methyl-6-[N-(1-acetyl-2-methyl-n-propyl)-aminocarbonyl]-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate | 6.7 mMol, 3.9 g | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2C)C(=O)NC(C(C)C)C(C)=O | C36H43N3O4
solvent | phosphorusoxychloride | 50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4'-[[2-n-Propyl-4-methyl-6-(4-isopropyl-5-methyl-oxazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic Acid | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2C)C=2OC(=C(N2)C(C)C)C | C32H33N3O3
